US08008298B2
In a flask N-(4-{3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenylsulfamoyl}-phenyl)-acetamide 0.034 gm (0.069 mM), 1 ml water and 10 drops 3M aqueous sodium hydroxide was added and the mixture heated to 100° C. for two hours. Water (20 ml) was added and the pH adjusted to 8 with hydrochloric acid and much solid formed. The mixture was extracted three times with ethyl acetate, the ethyl acetate dried over magnesium sulfate to give 4-Amino-N-{3-[7-(2,2-dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-benzenesulfonamide 0.023 gm (0.051 mM, 74% yield) M+1 450 m.p. 285-286° C.

reactant | N-(4-{3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenylsulfamoyl}-phenyl)-acetamide | 0.069 mM, 0.034 gm | CC(C(=O)C1=CNC2=NC=C(N=C21)C=2C=C(C=CC2)NS(=O)(=O)C2=CC=C(C=C2)NC(C)=O)(C)C | C25H25N5O4S
reactant | hydrochloric acid | Cl | ClH
catalyst | sodium hydroxide | 3M, 10 drops | [OH-].[Na+]
solvent | Water | 20 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 4-Amino-N-{3-[7-(2,2-dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-benzenesulfonamide | 0.051 mM, 0.023 gm, 74% yield | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C23H23N5O3S
